US05143920
4-Amino-3,5-dimethylphenol (1.8 g, 1.3 mmol) and 3-butyryl-4-chloro-8-methoxyquinoline (2.6 g, 10 mmol) were heated together under reflux in 1,4-dioxan (50 ml) for 2 hours. The solvent was evaporated and the residue dissolved in dichloromethane, washed with water, sodium hydrogen carbonate solution and brine, dried and evaporated to a yellow solid which on recrystallisation from ethanol, followed by methanol, afforded 3-butyryl-4-(4-hydroxy-2,6-dimethylphenylamino)-8-methoxyquinoline as yellow crystals, m.p. 247°-8°.

reactant | 4-Amino-3,5-dimethylphenol | 1.3 mmol, 1.8 g | NC1=C(C=C(C=C1C)O)C | C8H11NO
reactant | 3-butyryl-4-chloro-8-methoxyquinoline | 10 mmol, 2.6 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C14H14ClNO2
solvent | 1,4-dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(4-hydroxy-2,6-dimethylphenylamino)-8-methoxyquinoline | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1C)O)C)OC | C22H24N2O3
